US07285563B2
N-(4-nitrophenyl)-N′-[quinolin-6-yl]urea
Prepared from 6-aminoquinoline and 4-nitrophenyl isocyanate. m/z (ES+) 309 (M+H)+.

reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
reactant | 4-nitrophenyl isocyanate | [N+](=O)([O-])C1=CC=C(C=C1)N=C=O | C7H4N2O3
product | N-(4-nitrophenyl)-N′-[quinolin-6-yl]urea | [N+](=O)([O-])C1=CC=C(C=C1)NC(=O)NC=1C=C2C=CC=NC2=CC1 | C16H12N4O3
